### PR TITLE
[Merged by Bors] - feat(RingTheory/SimpleModule): a module over a semisimple ring is both injective and projective

### PR DESCRIPTION
**Pull request by smorel394**
Prove that a module over a semisimple ring is both injective and projective. For the injectivity, this follows immediately from `IsSemisimpleModule.extension_property`. For the projectivity, we add a dual statement  `IsSemisimpleModule.lifting_property` to `RingTheory.SimpleModule.Basic`. The actual `Module.Injective` and `Module.Projective` statements are in a separate file `RingTheory.SimpleModule.InjectiveProjective` to minimize imports in `RingTheory.SimpleModule.Basic`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/SimpleModule/Basic.lean [hunk 1]
```diff
@@ -192,6 +192,29 @@ theorem extension_property {P} [AddCommGroup P] [Module R P] (f : N →ₗ[R] M)
...
+  have eq : (((LinearMap.ker f).quotientEquivOfIsCompl m compl)
+      ((f.quotKerEquivOfSurjective hf).symm x)) =
+      ((Submodule.prodEquivOfIsCompl _ _ compl).symm z).2 := by
+    refine ((LinearMap.ker f).quotientEquivOfIsCompl m compl).symm.injective ?_
+    refine (f.quotKerEquivOfSurjective hf).injective ?_
+    conv_lhs => rw [← hz, eqz]
+    simp [LinearMap.quotKerEquivOfSurjective]
+  rw [eq]
+  conv_rhs => rw [← hz, eqz]
+  simp
```
Comment (ADedecker) [inline Mathlib/RingTheory/SimpleModule/Basic.lean]: If you add this right after [LinearMap.quotKerEquivRange_apply_mk](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Isomorphisms.html#LinearMap.quotKerEquivRange_apply_mk)
```lean
@[simp]
theorem quotKerEquivOfSurjective_apply_mk (hf : Function.Surjective f) (x : M) :
    (f.quotKerEquivOfSurjective hf (Submodule.Quotient.mk x) : M₂) = f x :=
  rfl
```
you can do:
```suggestion
  obtain ⟨z, rfl⟩ := hf x
  rw [← LinearMap.sub_mem_ker_iff, ← Submodule.Quotient.mk_eq_zero, ← Submodule.mkQ_apply,
    map_sub, Submodule.mkQ_apply, Submodule.mkQ_apply, Submodule.mk_quotientEquivOfIsCompl_apply,
    ← LinearMap.quotKerEquivOfSurjective_apply_mk f hf, LinearEquiv.symm_apply_apply, sub_self]
```

File: Mathlib/RingTheory/SimpleModule/InjectiveProjective.lean [hunk 2]
```diff
@@ -0,0 +1,27 @@
...
+-/
+
+namespace Module
+
+variable (R : Type*) [Ring R] [IsSemisimpleRing R] (M : Type*) [AddCommGroup M] [Module R M]
+
+theorem injective_of_semisimple_ring : Module.Injective R M where
+  out X Y _ _ _ _ f hf g :=
+    let ⟨h, comp⟩ := IsSemisimpleModule.extension_property f hf g
+    ⟨h, fun _ ↦ by rw [← comp, LinearMap.coe_comp, Function.comp_apply]⟩
```
Comment (ADedecker) [inline Mathlib/RingTheory/SimpleModule/InjectiveProjective.lean]:
```suggestion
    ⟨h, fun _ ↦ by rw [← comp, LinearMap.comp_apply]⟩
```

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+
